US07049315B2
N-(6,7-Methylenedioxyquinolin-4-yl)-N-[3-(N,N-dimethylamino)propyl]-2-iodo-4,5-dimethoxybenzamide.
Prepared from N′-(6,7-Methylenedioxyquinolin-4-yl)-N,N-dimethylpropane-1,3-diamine (273 mg, 1.0 mmol), in 79% yield with a reaction time of 12 h, from the acid chloride prepared using 4.0 mmol of oxalyl chloride and 1.36 mmol of 2-iodo-5,6-dimethoxybenzoic acid. Compound 7e had: IR (CHCl3) 1650; 1H NMR (CDCl3) δ 1.93 (m, 1H), 2.16 (m, 1H), 2.34 (s, 6H), 2.58 (m, 1H), 3.31 (s, 3H), 3.47 (m, 1H), 3.75 (s, 3H), 3.95 (m, 1H,), 4.55, (m, 1H), 6.16 (s, 1H), 6.39 (s, 1H), 704 (s, 1H), 7.28 (d, 1H, J=5.0), 7.31 (s, 1H), 7.38 (s, 1H), 8.56 (d, 1h, J=5.0); 13C NMR (CDCl3) δ 25.8, 45.1, 47.2, 55.5, 56.1, 26.9, 82.7, 98.1, 102.3, 107.0, 110.1, 120.1, 121.5, 122.5, 133.5, 145.5, 148.1, 148.4, 148.6, 149.2, 149.7, 151.1, 170.1; HRMS calcd for C24H26IN3O5H: 564.0995; found 564.0990.

reactant | N′-(6,7-Methylenedioxyquinolin-4-yl)-N,N-dimethylpropane-1,3-diamine | 1.0 mmol, 273 mg | C1OC=2C=C3C(=CC=NC3=CC2O1)NCCCN(C)C | C15H19N3O2
reactant | oxalyl chloride | 4.0 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-iodo-5,6-dimethoxybenzoic acid | 1.36 mmol | IC1=C(C(=O)O)C(=C(C=C1)OC)OC | C9H9IO4
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(6,7-Methylenedioxyquinolin-4-yl)-N-[3-(N,N-dimethylamino)propyl]-2-iodo-4,5-dimethoxybenzamide | 79% yield | C1OC=2C=C3C(=CC=NC3=CC2O1)N(C(C1=C(C=C(C(=C1)OC)OC)I)=O)CCCN(C)C | C24H26IN3O5
